Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
swallowing of foreign bodies

 
Major Surgical or Invasive Procedure:
___: ex-lap, appendectomy w/ removal of 2 foreign bodies

 
History of Present Illness:
___ transferred from ___ for further evaluation and
management after presenting for swallowing razor blades. The
patient is incarcerated for past 3 weeks and had razor blades 
for
shaving of which he swallowed around 6pm today.  Per report,
patient stated that he had suicidal thoughts.  He initially
denied any abdominal pain but now states that he started having
new abdominal pain ~2hours ago. A CT scan of his abdomen at
___ demonstrated two razor blades in the proximal small
bowel. There was no evidence of perforation. He denies
F/C/N/V/SOB/CP/diarrhea. Last BM was earlier this AM, which was
normal.

 
Past Medical History:
Past Medical History:
Boarderline personality, septic MRSA/bacteremia, liver failure,
Hep C + (from IVDU), Gastric Ulcers, Endocarditis, withdrawal
seizures from IV heroine/cocaine abuse

Past Surgical History:
Denies

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admit PE:
Vitals: 98.2    60    105/64    15    98% RA
GEN: A&O, NAD, flat affect
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, +TTP lower mid abdomen/LLQ, no rebound,
no palpable masses
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ KUB:
FINDINGS:  Two razor blades are noted within the right upper 
abdomen, in a 
very similar position compared with this evening CT scan 
performed at ___. 
There is no intraperitoneal free air.  No other foreign bodies 
are identified. 
The visualized soft tissue structures are unremarkable. 
  
IMPRESSION:  Two razor blades visualized within the right upper 
quadrant, 
unchanged in position compared with CT performed earlier this 
evening. 

___ 12:53AM BLOOD WBC-5.3 RBC-4.93 Hgb-12.7* Hct-39.4* 
MCV-80* MCH-25.8* MCHC-32.3 RDW-16.1* Plt ___
___ 12:53AM BLOOD Glucose-82 UreaN-14 Creat-0.7 Na-140 
K-4.1 Cl-104 HCO3-25 AnGap-15
 
Brief Hospital Course:
Pt was admitted in setting of ingesting two razor blades. 
Underwent ex-lap, appendectomy w/ removal of 2 foreign bodies. 
Uncomplicated. See operative dictation for full details. Diet 
was advanced to regular and pain controlled with oral pain 
medications. 
 
Medications on Admission:
none
 
Discharge Medications:
1. Vicodin ___ mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*40 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
foreign body ingestion (two razor blades)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Resume all home medications.

___ shower. No bathing. Pat incision dry. Dressing can be 
removed on ___. No dressing needed as long as no discharge 
from wound. 

Staples will be removed in two weeks in ___ clinic.

No strenous activity until follow up. No lifting anything 
 
Followup Instructions:
___